US09102616B2
Intermediate 1: Synthesis of methyl 2-(9H-carbazol-9-yl)benzoate
A 1 L round bottom flask was charged with carbazole (8.36 g, 50 mmol), methyl-2-bromobenzoate (15 g, 75 mmol), K2CO3 (7 g, 50 mmol), Na2SO4 (7.1 g, 50 mmol), Cu powder (0.3 g, 5 mmol), and nitrobenzene, and the mixture was reacted at 190° C. for 24 hours. After the reaction was completed, the resultant product was extracted with methylene chloride and water. The organic layer was dried with MgSO4, and purified by silica gel column (ethyl acetate:hexane=1:5) to give 12 g of a product (79.6%).

reactant | carbazole | 50 mmol, 8.36 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | methyl-2-bromobenzoate | 75 mmol, 15 g | COC(C1=C(C=CC=C1)Br)=O | C8H7BrO2
reactant | K2CO3 | 50 mmol, 7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Na2SO4 | 50 mmol, 7.1 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | methyl 2-(9H-carbazol-9-yl)benzoate | 12 g, 79.6% | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C(=O)OC)C=CC=C1 | C20H15NO2
